US05194430
Step b: 4-Dibenzylaminobutyric acid, ethyl ester
Mix ethyl 4-iodobutyrate (43.5 g, 0.18 mol), dibenzylamine (35.5 g, 0.18 mol), potassium carbonate (24.9 g, 0.18 mol) and ethanol (114 mL dried over 4A molecular sieves). Reflux for 24 hours then stir at room temperature for 48 hours. Add methylene chloride (100 mL) and filter. Evaporate the filtrate to a residue and purify by silica gel chromatography (methylene chloride) to give the title compound (47 g).

reactant | ethyl 4-iodobutyrate | 0.18 mol, 43.5 g | ICCCC(=O)OCC | C6H11IO2
reactant | dibenzylamine | 0.18 mol, 35.5 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | potassium carbonate | 0.18 mol, 24.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 114 mL | C(C)O | C2H6O
product | 4-Dibenzylaminobutyric acid, ethyl ester | 47 g | C(C1=CC=CC=C1)N(CCCC(=O)OCC)CC1=CC=CC=C1 | C20H25NO2
